US07863444B2
A mixture of 1-bromo-2-methoxy-4-nitrobenzene (3.0 g, 12.9 mmol) and glacial acetic acid (25 ml) was heated at 100° C. under an atmosphere of nitrogen. Iron powder (2.2 g, 38.8 mmol) was added and the mixture was stirred for one hour at a temperature of 100° C. The mixture was cooled to ambient temperature, water (100 ml) was added and the mixture was then extracted with ethyl acetate (3×25 ml). The combined organic extracts were washed with saturated aqueous sodium bicarbonate (3×25 ml) and then brine. The organic solution was dried over magnesium sulfate filtered and the filtrate evaporated under reduced pressure to give a residue. Purification of the material by flash chromatography on silica gel using heptane/ethyl acetate (6:4) as an eluent yielded 4-bromo-3-methoxyaniline (1.22 g): 1H NMR (DMSO-d6, 400 MHz) δ 7.1 (d, 1H), 6.31 (s, 1H), 6.1 (d, 1H), 5.27 (bs, 2H), 3.72 (s, 3H); TLC (heptane/ethyl acetate 1:1) Rf 0.33; RP-HPLC (Hypersil HyPurity Elite C18, 5 μm, 200 A, 250×4.6 mm; 25-100% acetonitrile-0.1 M ammonium acetate over 25 min, 1 ml/min) tr=11.05 min.

reactant | 1-bromo-2-methoxy-4-nitrobenzene | 12.9 mmol, 3.0 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6BrNO3
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
catalyst | Iron | 38.8 mmol, 2.2 g | [Fe] | Fe
solvent | water | 100 ml | O | H2O
product | 4-bromo-3-methoxyaniline | 1.22 g | BrC1=C(C=C(N)C=C1)OC | C7H8BrNO
